US06506750B1
2-(Piperidin-4-yl)isobutyramide Hydrochloride
A mixture of 3 g of pyridin-4-ylacetonitrile hydrochloride in 50 ml of DMF is cooled to 0° C., 2.6 g of 60% sodium hydride in oil are added in small portions and the mixture is left stirring for 2 hours at RT. The reaction mixture is cooled on an ice bath, 6 g of methyl iodide are added dropwise and the mixture is left stirring overnight at RT. The reaction mixture is poured over a water/ice mixture, extracted with ether, the organic phase washed with a saturated NaCl solution, dried over MgSO4, filtered and the solvent evaporated off under vacuum. The residue is chromatographed on H silica gel, eluting with DCM and then with the DCM/MeOH (98/2; v/v) mixture. 2.39 g of the expected product are obtained in the form of an oil which crystallizes.

reactant | pyridin-4-ylacetonitrile hydrochloride | 3 g | Cl.N1=CC=C(C=C1)CC#N
reactant | sodium hydride | 2.6 g | [H-].[Na+]
reactant | methyl iodide | 6 g | CI | CH3I
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-(Piperidin-4-yl)isobutyramide Hydrochloride | 2.39 g | Cl.N1CCC(CC1)C(C(=O)N)(C)C | InChI=1S/C9H18N2O.ClH/c1-9(2,8(10)12)7-3-5-11-6-4-7;/h7,11H,3-6H2,1-2H3,(H2,10,12);1H
